US04698329
2.90 g (8.30 mmole) of N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanine and 2.15 g (8.30 mmole) of 3-(4-thiazolyl)-DL-alanine methyl ester dihydrochloride were suspended in 30 ml of anhydrous tetrahydrofuran. Whilst ice cooling, 1.51 ml (9.95 mmole) of diethyl phosphorocyanidate and 3.82 ml (27.4 mmole) of triethylamine were added dropwise under a nitrogen gas stream, and the mixture was stirred overnight at room temperature. The reaction product was condensed by evaporation under reduced pressure. Ethyl acetate was added to the residue, and the mixture was washed with water and then dried over anhydrous magnesium sulfate. The dried product was condensed by evaporation under reduced pressure, and the residue was purified by silica gel column chromatography eluted with a 10:1 by volume mixture of chloroform and methanol, to yield 2.62 g (61%) of N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-3-(4-thiazolyl)-DL-alanine methyl ester.

reactant | N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanine | 8.30 mmole, 2.90 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC2=CC=CC=C12)C(=O)O | C21H19NO4
reactant | 3-(4-thiazolyl)-DL-alanine methyl ester dihydrochloride | 8.30 mmole, 2.15 g | Cl.Cl.COC(C(N)CC=1N=CSC1)=O
reactant | diethyl phosphorocyanidate | 9.95 mmole, 1.51 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 27.4 mmole, 3.82 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-3-(4-thiazolyl)-DL-alanine methyl ester | 2.62 g, 61% | COC(C(NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC2=CC=CC=C12)=O)CC=1N=CSC1)=O | C28H27N3O5S
